US07888352B2
2-amino-1-(4-((2-(2-aminopyrimidin-5-yl)-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-methylpropan-1-one 103
The HCl salt of 5-(4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine (100 mg) was reacted with Boc-2-aminoisobutyric Acid via General Procedure B followed by Boc removal with TFA to generate 28.8 mg of 103 after purification. MS (Q1) 498.3 (M)+.

reactant | HCl | Cl | ClH
reactant | 5-(4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine | 100 mg | O1CCN(CC1)C=1C2=C(N=C(N1)C=1C=NC(=NC1)N)C=C(S2)CN2CCNCC2 | C19H24N8OS
reactant | Boc-2-aminoisobutyric Acid | C(=O)(OC(C)(C)C)CC(C(=O)O)(C)N | C9H17NO4
product | 2-amino-1-(4-((2-(2-aminopyrimidin-5-yl)-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-methylpropan-1-one | NC(C(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C=1C=NC(=NC1)N)(C)C | C23H31N9O2S
